US04164583
A solution of 250 g of N-cinnamyltrifluoroacetamide in 1 liter of hexamethylphosphoric acid triamide (HMPT) is added dropwise with ice-cooling and stirring under a nitrogen atmosphere, to a suspension of 27 g of sodium hydride in 400 ml of HMPT. After the evolution of gas has ceased, a solution of 130 g of 1,3-dichloropropene and 1 g of sodium iodide in 1 liter of HMPT is added dropwise and the mixture stirred for 16 hours at room temperature. The reaction mixture is then poured on to water and extracted with ether. The ethereal solution is dried over sodium sulphate, evaporated and the oily residue chromatographed on 3.5 kg of silica gel with toluene to yield N-(3-chloro-2-propenyl)-N-cinnamyl-trifluoroacetamide as an oil.

reactant | N-cinnamyltrifluoroacetamide | 250 g | C(C=CC1=CC=CC=C1)NC(C(F)(F)F)=O | C11H10F3NO
reactant | sodium hydride | 27 g | [H-].[Na+]
reactant | 1,3-dichloropropene | 130 g | ClC=CCCl | C3H4Cl2
reactant | sodium iodide | 1 g | [I-].[Na+]
solvent | hexamethylphosphoric acid triamide | 1 liter | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | HMPT | 400 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | HMPT | 1 liter | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | water | O | H2O
product | N-(3-chloro-2-propenyl)-N-cinnamyl-trifluoroacetamide | ClC=CCN(C(C(F)(F)F)=O)CC=CC1=CC=CC=C1 | C14H13ClF3NO
